### PR TITLE
feat(Algebra/Group/Units/Hom): add map lemmas

### PR DESCRIPTION
**Pull request by Multramate**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
I don't think this is the right definition. We shouldn't see these classes in defs.

**Comment by Multramate** [comment]
> I don't think this is the right definition. We shouldn't see these classes in defs.

I don't know how these things are designed, but what I really need is this result:
```
@[to_additive]
theorem unit_inv_map [MonoidHomClass F M N] (f : F) {x : M} (h : IsUnit x) : (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := by
  simp_rw [← Units.coe_map, map_inv, Units.val_inv_inj, Units.coe_map, unit_spec]
```
I think I was having trouble proving this cleanly (using `rw` and no defeq abuses).

**Comment by Multramate** [comment]
I guess I could revert `map` to `MonoidHom` but keep all the API lemmas about `MonoidHomClass`?
```
/-- The group homomorphism on units induced by a `MonoidHom`. -/
@[to_additive "The additive homomorphism on `AddUnit`s induced by an `AddMonoidHom`."]
def map (f : M →* N) : Mˣ →* Nˣ :=
  MonoidHom.mk'
    (fun u => ⟨f u.val, f u.inv, by simp [← map_mul], by simp [← map_mul]⟩) fun _ _ => ext (by simp)

@[to_additive (attr := simp)]
theorem coe_map (f : F) (x : Mˣ) : ↑(map (f : M →* N) x) = f x := rfl

@[to_additive (attr := simp)]
theorem coe_map_inv (f : F) (u : Mˣ) : ↑(map (f : M →* N) u)⁻¹ = f ↑u⁻¹ := rfl

@[to_additive (attr := simp)]
theorem map_mk (f : F) (val inv : M) (val_inv inv_val) : map f (mk val inv val_inv inv_val) =
    mk (f val) (f inv) (by simp [← map_mul, val_inv]) (by simp [← map_mul, inv_val]) := rfl

@[to_additive (attr := simp)]
theorem map_comp (f : F) (g : G) : map ((g : N →* P).comp f) = (map g).comp (map (f : M →* N)) :=
  rfl

@[to_additive]
theorem map_injective {f : F} (hf : Function.Injective f) : Function.Injective (map (f : M →* N)) :=
  fun _ _ e => ext (hf (congr_arg val e))
```
Let me know if this acceptable.

**Comment by erdOne** [comment]
Why do you need it in the first place? Is the following (and applying it to `f.toMonoidHom`) not enough?
```
@[to_additive]
theorem unit_inv_map (f : M →* N) {x : M} (h : IsUnit x) : (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := by
  simp_rw [← Units.coe_map, map_inv, Units.val_inv_inj, Units.coe_map, unit_spec]
```

**Comment by Multramate** [comment]
> Why do you need it in the first place? Is the following (and applying it to `f.toMonoidHom`) not enough?
> 
> ```
> @[to_additive]
> theorem unit_inv_map (f : M →* N) {x : M} (h : IsUnit x) : (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := by
>   simp_rw [← Units.coe_map, map_inv, Units.val_inv_inj, Units.coe_map, unit_spec]
> ```

I don't think it's enough. How would you prove this without defeq abuses?
```
example {M N : Type*} [Semiring M] [Semiring N] (f : M →+* N) {x : M} (h : IsUnit x) :
    (h.map f).unit⁻¹ = f ↑h.unit⁻¹ :=
  sorry
```
Note that the other lemmas in the same section as `unit_inv_map` are stated for `MonoidHomClass`.

**Comment by erdOne** [comment]
```
example {M N : Type*} [Semiring M] [Semiring N] (f : M →+* N) {x : M} (h : IsUnit x) :
    (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := Units.inv_eq_of_mul_eq_one_left (by simp [← map_mul])
```

**Comment by Multramate** [comment]
This proof also works for all `MonoidHomClass`! So why are we restricting the lemma statement to `MonoidHom`? I still don't quite get when we want to state things for concrete homs or when we want to state things for hom classes, and the inconsistency in the file doesn't help. I could understand that we might not want hom classes for defs, but what about lemmas?

**Comment by erdOne** [comment]
This (and other generic lemma) could be stated for `MonoidHomClass`. But defs shouldn't mention them because you then have multiple ways to write a def which is bad.
And API for a def should just be written for the generality of the def.

**Comment by Multramate** [comment]
I'm convinced that I should revert `Units.map`, but I'm not convinced about the difference between API and generic lemmas. Arguably `Units.map_comp` and `Units.map_injective` are "generic lemma"s?

In any case, I think my new `Units.coe_map` might still be useful:
```
variable {M N : Type*} [Monoid M] [Monoid N]

theorem Units.coe_map_old (f : M →* N) (x : Mˣ) : ↑(map f x) = f x := rfl

theorem Units.coe_map_new {F : Type*} [FunLike F M N] [MonoidHomClass F M N] (f : F) (x : Mˣ) :
    ↑(map (f : M →* N) x) = f x := rfl

example (f : M ≃* N) (x : Mˣ) : Units.map (f : M →* N) x = f x := by
  rw [Units.coe_map_old, MonoidHom.coe_coe]

example (f : M ≃* N) (x : Mˣ) : Units.map (f : M →* N) x = f x := by
  rw [Units.coe_map_new]

example (f : M ≃* N) (x : Mˣ) : Units.map f.toMonoidHom x = f x := by
  rw [MulEquiv.toMonoidHom_eq_coe, Units.coe_map_old, MonoidHom.coe_coe]

example (f : M ≃* N) (x : Mˣ) : Units.map f.toMonoidHom x = f x := by
  rw [MulEquiv.toMonoidHom_eq_coe, Units.coe_map_new]
```
This reduces one instance of `MonoidHom.coe_coe`. Your proof of `IsUnit.unit_inv_map` for my example with semirings uses `Units.inv_eq_of_mul_eq_one_left`, which suggests that the old `Units.coe_map` is not friendly in the first place.

**Comment by erdOne** [comment]
We are removing coercions from `MonoidHomClass` to `MonoidHom`s (see e.g. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/simp.20normal.20form.20for.20symm.20and.20coercions/with/523038032), and then your lemma will not type check.

**Comment by Multramate** [comment]
I could still phrase this as:
```
theorem Units.coe_map_new {F : Type*} [FunLike F M N] [MonoidHomClass F M N] (f : F) (x : Mˣ) :
    ↑(map f.toMonoidHom x) = f x := rfl
```
Or are you saying this will also be removed?

**Comment by erdOne** [comment]
Hmmm this doesn't typecheck for me even on current mathlib.

**Comment by Multramate** [comment]
Yeah sorry, I meant `MonoidHomClass.toMonoidHom f` rather than `f.toMonoidHom`.

In any case I think the simp removals would change the direction of the entire file, so adding the coercions right now to these few lemmas will just add an epsilon amount of extra work, and I don't think there's much harm.

**Comment by Multramate** [comment]
OK that seems to have broken a lot of other things: e.g. `Units.map f x` no longer simplifies if `f` is actually a `MonoidHom` rather than something coerced to a `MonoidHom`. I will be content with just having an ad-hoc `unit_map_inv` and give up.

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 1]
```diff
@@ -262,6 +263,10 @@ lemma val_pow_eq_pow_val (n : ℕ) : ↑(a ^ n) = (a ^ n : α) := rfl
 @[to_additive (attr := simp, norm_cast)]
 lemma inv_pow_eq_pow_inv (n : ℕ) : ↑(a ^ n)⁻¹ = (a⁻¹ ^ n : α) := rfl
 
+@[to_additive (attr := simp)]
+lemma val_inv_inj : ((a⁻¹ : αˣ) : α) = ↑b⁻¹ ↔ (a : α) = b :=
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Units/Defs.lean]: This is a lemma so it shouldn't be in a def file. This is probably why you got the large import.

**Comment by Multramate** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25993
